US06060508
3 g (9.82 mmol) of 2,3-dimethyl-7-(2-[tert-butyldimethylsilyloxy]-1-hydroxyethyl)benzofuran, 50 ml of ethyl ether and 2.2 ml (15.7 mmol) of triethylamine are introduced into a 100 ml round-bottomed flask. The mixture is cooled to -30° C. by a bath of dry ice in acetone and 1.24 ml (15.7 mmol) of mesyl chloride are added. The cooling bath is removed and the reaction mixture is allowed to return to room temperature over 30 minutes. 200 ml of water are added and extraction is carried out with ethyl ether (3×150 ml). The organic phases are combined, dried over magnesium sulphate and concentrated. The residue is transferred, without additional purification, to a 100 ml three-necked flask equipped with a reflux condenser. 20 ml (190 mmol) of diethylamine and 3 ml of chloroform are added and the reaction mixture is heated at reflux for 16 hours. The reaction mixture is cooled to room temperature and concentrated under vacuum, 150 ml of water are added and extraction is carried out with ethyl ether (3×200 ml). The organic phases are combined, dried over magnesium sulphate and concentrated under vacuum. The residue is purified by chromatography on a silica column (elution solvent: 10% methanol in dichloromethane). 2.77 g (Yield 78%) of 2,3-dimethyl-7-(1-diethylamino-2-[tert-butyldimethylsilyloxy] ethyl)-benzofuran are obtained in the form of an oil. (0.5 g of unreacted 2,3-dimethyl-7-(2-[tert-butyldimethylsilyloxy]-1-hydroxyethyl)benzofuran is recovered.

reactant | 2,3-dimethyl-7-(2-[tert-butyldimethylsilyloxy]-1-hydroxyethyl)benzofuran | 9.82 mmol, 3 g | CC=1OC2=C(C1C)C=CC=C2C(CO[Si](C)(C)C(C)(C)C)O | C18H28O3Si
reactant | triethylamine | 15.7 mmol, 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | dry ice | C(=O)=O | CO2
reactant | mesyl chloride | 15.7 mmol, 1.24 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | diethylamine | 190 mmol, 20 ml | C(C)NCC | C4H11N
solvent | acetone | CC(=O)C | C3H6O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2,3-dimethyl-7-(1-diethylamino-2-[tert-butyldimethylsilyloxy] ethyl)-benzofuran | 2.77 g, Yield 78% | CC=1OC2=C(C1C)C=CC=C2C(CO[Si](C)(C)C(C)(C)C)N(CC)CC | C22H37NO2Si
